US08486952B2
3,4-difluorophenylboronic acid was reacted as described in Intermediate X(2) with 3-iodo-4,4-dimethoxytetrahydro-2H-pyran (Intermediate X(1)) to give 3-(3,4-difluorophenyl)dihydro-2H-pyran-4(3H)-one (Intermediate Y(2)).

reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | 3-iodo-4,4-dimethoxytetrahydro-2H-pyran | IC1COCCC1(OC)OC | C7H13IO3
product | 3-(3,4-difluorophenyl)dihydro-2H-pyran-4(3H)-one | FC=1C=C(C=CC1F)C1COCCC1=O | C11H10F2O2
